US04578395
To a solution of 1.71 g of 3-(N,N-dimethylamino-2,2-dimethylpropanol (Reference: M. S. Newman et al; Journal of Medicinal chemistry, vol 15, p1003 (1972)) in 2 ml of benzene was added dropwise 1.16 g of diketene with stirring at 70° C. The mixture was stirred at 70° C. for additional 1.5 hr. Solvent was distilled off in cacuo to leave a yellowish oil. The residue was dissolved in diethyl ether and then extracted with an aqueous 2N-hydrochloric acid solution. The extracts were made alkaline with an aqueous 2N sodium hydroxide solution. The mixture was extracted with diethyl ether and then the ethereal extract was washed with a saturated aqueous sodium chloride solution, and then dried over anhydrous sodium sulfate. The solvent was distilled off to give 2.8 g of 3-(N,N-dimethylamino)-2,2-dimethylpropyl acetoacetate can oily substance. The physical properties of this compound are as follows.

reactant | N,N-dimethylamino-2,2-dimethylpropanol | CN(C)C(C(C)(C)C)O | C7H17NO
reactant | diketene | 1.16 g | C=C1CC(=O)O1 | C4H4O2
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | benzene | 2 ml | C1=CC=CC=C1 | C6H6
product | 3-(N,N-dimethylamino)-2,2-dimethylpropyl acetoacetate | 2.8 g | C(CC(=O)C)(=O)OCC(CN(C)C)(C)C | C11H21NO3
